US05883092
Synthesis of N-(2-isopropylphenyl)-3-[6-(4-t-butylphenylsulfonylamino)-5-(2-methoxyphenoxy)-2-morpholino-4-pyrimidinyloxy]propionamide
3-[6-(4-t-Butylphenylsulfonylamino)-5-(2-methoxyphenoxy)-2-morpholino-4-pyrimidinyloxy]propionic acid (80 mg) was dissolved in dimethylformamide-methylene chloride (1:1, 6 ml). N-Hydroxybenzotriazole·H2O (42.2 mg), 2-isopropylaniline (133.2 mg), and 1-(3-dimethylaminopropyl) -3-ethylcarbodiimide-HCl (32.6 mg) were added to the mixture. The reaction mixture was stirred overnight at room temperature. After the solvent was evaporated, ethyl acetate was added. The organic layer was successively washed with sat. aq. NaHCO3, 0.5N-HCl, and brine, was dried over anhydrous sodium sulfate, and evaporated. The residue was purified by silica gel column chromatography (chloroform:methanol=30:1), to thereby obtain 97.2 mg (yield: 100%) of the title compound as a colorless oil.

reactant | 3-[6-(4-t-Butylphenylsulfonylamino)-5-(2-methoxyphenoxy)-2-morpholino-4-pyrimidinyloxy]propionic acid | 80 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NC(=N1)N1CCOCC1)OCCC(=O)O)OC1=C(C=CC=C1)OC | C28H34N4O8S
reactant | N-Hydroxybenzotriazole·H2O | 42.2 mg | ON1N=NC2=C1C=CC=C2.O
reactant | 2-isopropylaniline | 133.2 mg | C(C)(C)C1=C(N)C=CC=C1 | C9H13N
reactant | 1-(3-dimethylaminopropyl) -3-ethylcarbodiimide-HCl | 32.6 mg | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide methylene chloride | 6 ml | CN(C=O)C.C(Cl)Cl
product | N-(2-isopropylphenyl)-3-[6-(4-t-butylphenylsulfonylamino)-5-(2-methoxyphenoxy)-2-morpholino-4-pyrimidinyloxy]propionamide | 97.2 mg, yield: 100% | C(C)(C)C1=C(C=CC=C1)NC(CCOC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)N1CCOCC1)=O | C37H45N5O7S
